US09212150B2
Preparation of 1-(4-Nitrobenzylidene)-2-(4-(trifluoromethoxy)phenyl)hydrazine
To a magnetically stirred solution of 4-nitrobenzaldehyde (1.57 g, 10.41 mmoL) dissolved in EtOH (21 mL) was added (4-(trifluoromethoxy)phenyl)-hydrazine (2 g, 10.41 mmoL) and the reaction was stirred at room temperature overnight. The solvent was concentrated under reduced pressure and dried under high vacuum to give the title compound as a mixture of E and Z-isomers (3.35 g, 99%): 1H NMR (400 MHz, CDCl3) δ 10.17 (s, 1H), 8.40 (d, J=8.6 Hz, 2H, isomer A), 8.24 (d, J=8.6 Hz, 2H, isomer B), 8.08 (d, J=8.7 Hz, 2H, isomer A), 7.79-7.74 (m, 4H, mixture of isomers A & B), 7.19-7.13 (m, 6H, mixture of isomers A & B); 19F NMR (376 MHz, CDCl3) δ −58.34; ESIMS m/z 325 ([M+H])+.

reactant | 4-nitrobenzaldehyde | 1.57 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | (4-(trifluoromethoxy)phenyl)-hydrazine | 2 g | FC(OC1=CC=C(C=C1)NN)(F)F | C7H7F3N2O
solvent | EtOH | 21 mL | CCO | C2H6O
product | 1-(4-Nitrobenzylidene)-2-(4-(trifluoromethoxy)phenyl)hydrazine | [N+](=O)([O-])C1=CC=C(C=NNC2=CC=C(C=C2)OC(F)(F)F)C=C1 | C14H10F3N3O3
